datasets/10k__Tet_Int.csv
SMILES Labelled
"C[NH:10][H].[H][NH+:21]=[C:20]([NH]CC)[O]CC.[Cl-]>>[Cl-].C[NH+:10]([H])[C:20]([NH:21][H])([NH]CC)[O]CC 10=20;20,21=21"
"[H][O:10]C([H])C(C)[O][C:20]([NH]CC)=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C([H])C(C)[O]1)[C:20]1([NH:21][H])[NH]CC 10=20;20,21=21"
"CCCCCCN([C:20](=[O:10])OCC)CCCCCC.[O-:21]CCCCCC>>CCCCCCN([C:20]([O-:10])(OCC)[O:21]CCCCCC)CCCCCC 21=20;20,10=10"
"C9=CC=CC=C9[O:10][H].[H][O+:21]=[C:20]([O]C8=CC=CC=C8)[S]C7=CC=CC=C7.[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]([O:21][H])([O]C8=CC=CC=C8)[S]C7=CC=CC=C7 10=20;20,21=21"
"[NH:10](C)C(C)C(C)C([C:20]([H])=[O:21])O>>[O-:21][C:20]1([H])[NH+:10](C)C(C)C(C)C1O 10=20;20,21=21"
"[H][NH+:10](C(CC)C([H])C([H])[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH]C.[Cl-]>>[Cl-].[H][NH:10]C(CC)C([H])C([H])[O][C:20]([NH]C)=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[O-:21][C:20]2(C)C(C([H])C3=C([NH+:10]2(C))C=CC=C3)O>>[NH:10](C)C(C=CC=C1)=C1C([H])C([C:20](C)=[O:21])O 21=20;20,10=10"
"[Si](C)(C)(C)[O+:21]=[C:20]2[O]C(CC)C([H])[O]2.[H][S:10][H].[Cl-]>>[Cl-].[H][S+:10]([H])[C:20]1([O:21][Si](C)(C)(C))[O]C(CC)C([H])[O]1 10=20;20,21=21"
"[OH:21][C:20]1([H])[OH+:10]C(C)C(O)=C1[H]>>[OH:10]C(C)/C(O)=C([C:20]([H])=[OH+:21])/[H] 21=20;20,10=10"
"C[NH+:21]=[C:20]2[O]C([H])C([H])[O]2.[H][O:10][H].[Cl-]>>[Cl-].[H][O+:10]([H])[C:20]1([NH:21]C)[O]C([H])C([H])[O]1 10=20;20,21=21"
"[H][NH+:10](C([H])C([H])C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21][H])[NH]CC.[Cl-]>>[Cl-].[H][NH:10]C([H])C([H])C(C8=CC=CC=C8)[NH][C:20]([NH]CC)=[NH+:21][H] 21=20;20,10=10"
"[OH:10]C([H])C([H])/C(C)=C(C)\[C:20](C)=[OH+:21]>>[OH:21][C:20]1(C)C(C)=C(C)C([H])C([H])[OH+:10]1 10=20;20,21=21"
"CCC1C(C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]CC)[H])[H]>>CCC1C(C(O[C:20](=[O:10])N1C1=CC=CC=C1)[H])[H].[O-:21]CC 10=20;20,21=21"
"[H][S:10]C(CC)C(C8=CC=CC=C8)[S][C:20]([S]C)=[O+:21][Si](C)(C)(C).[Cl-]>>[Cl-].[H][S+:10](C(CC)C(C8=CC=CC=C8)[S]1)[C:20]1([O:21][Si](C)(C)(C))[S]C 10=20;20,21=21"
"[H][S+:10](C(C9=CC=CC=C9)C(C8=CC=CC=C8)[S]1)[C:20]1([O:21][Si](C)(C)(C))[S][H].[Cl-]>>[Cl-].[H][S:10]C(C9=CC=CC=C9)C(C8=CC=CC=C8)[S][C:20]([S][H])=[O+:21][Si](C)(C)(C) 21=20;20,10=10"
"[H][O:10]C(C)C(CC)[NH][C:20]([NH]C)=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C)C(CC)[NH]1)[C:20]1([NH:21]C)[NH]C 10=20;20,21=21"
"CC[NH+:10]([H])[C:20]1([NH:21]C)[NH][CH](C7=CC=CC=C7)C([H])[CH](C)[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH]([H])C(C)[NH]2.CC[NH:10][H] 21=20;20,10=10"
"[H][NH+:21]=[C:20]2[O][CH](CC)[CH]([H])C([H])[NH]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21][H])[O][CH](CC)C([H])[CH]([H])[NH]1 10=20;20,21=21"
"[H][S:10]C(C)C(C)C([H])[S][C:20]([S]C7=CC=CC=C7)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C(C)C(C)C([H])[S]1)[C:20]1([O:21][H])[S]C7=CC=CC=C7 10=20;20,21=21"
"[O-:21][C:20]1(OC)C(O)C([H])C([H])C(CC)[NH+:10]1([H])>>[NH:10]([H])C(CC)C([H])C([H])C(O)[C:20](OC)=[O:21] 21=20;20,10=10"
"[H][S+:10](C([H])C([H])C([H])[O]1)[C:20]1([O:21][H])[S][H].[Cl-]>>[Cl-].[H][S:10]C([H])C([H])C([H])[O][C:20]([S][H])=[O+:21][H] 21=20;20,10=10"
"C[O+:21]=[C:20]2[O]C(C)C(C8=CC=CC=C8)[S]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([O:21]C)[O]C(C)C(C8=CC=CC=C8)[S]1 10=20;20,21=21"
"[H][O:10]C(C9=CC=CC=C9)C(C8=CC=CC=C8)[O][C:20]([NH]C)=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21][H])[NH]C 10=20;20,21=21"
"C1(C(O[C:20]([O-:10])([O:21]C1CCCCCC)OCCCCCC)C1=CC=CC=C1)C>>C(C([O-:21])CCCCCC)(C(O[C:20](=[O:10])OCCCCCC)C1=CC=CC=C1)C 10=20;20,21=21"
"[OH:21][C:20]2(C)C(C(C)C3=C([OH+:10]2)C=CC=C3)O>>[OH:10]C(C=CC=C1)=C1C(C)C([C:20](C)=[OH+:21])O 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[O]C(C)C(C)[O]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21]CC)[O]C(C)C(C)[O]1 10=20;20,21=21"
"[H][NH:10]C(CC)C([H])C(C8=CC=CC=C8)[O][C:20]([NH]C7=CC=CC=C7)=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C(CC)C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21][H])[NH]C7=CC=CC=C7 10=20;20,21=21"
"[H]C1C(C(O[C:20](=[O:10])N1CCCCCC)C)C.[O-:21][H]>>[H]C1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21][H])C)C 21=20;20,10=10"
"[O:10]([Na])C(C)C(C)C(C)C(O)[C:20](OCC)=[O:21]>>[O-:21][C:20]1(OCC)C(O)C(C)C(C)C(C)[O+:10]1([Na]) 10=20;20,21=21"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]CC)[O][CH](C7=CC=CC=C7)C(C)[CH](C)[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C(C)[NH]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"C[NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C([H])[O]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]C)[O][CH]([H])C([H])[CH]([H])[O]1 10=20;20,21=21"
"CC[NH:10][H].[H][NH+:21]=[C:20]([O][H])[O][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]([NH:21][H])([O][H])[O][H] 10=20;20,21=21"
"[H][O+:10](C(C)C([H])C([H])[NH]1)[C:20]1([NH:21]C)[O]C.[Cl-]>>[Cl-].[H][O:10]C(C)C([H])C([H])[NH][C:20]([O]C)=[NH+:21]C 21=20;20,10=10"
"C1=CC=CC=C1N([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)[H])C1=CC=CC=C1)[H]>>C1=CC=CC=C1N([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)[H])C1=CC=CC=C1)[O-:10])[H] 21=20;20,10=10"
"CC[NH+:21]=[C:20]2[O][CH]([H])[CH](C)C(C)[O]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21]CC)[O][CH]([H])C(C)[CH](C)[O]1 10=20;20,21=21"
